US09359352B2
Synthesis of 6-chloro-3-morpholinopyrido[2,3-b]pyrazine (E-29)
A mixture of 3,6-dichloropyrido[2,3-b]pyrazine (E-28) (201 mg, 1 mmol, 1.0 eq) and morpholine (175 μL, 2 mmol, 2.0 eq) and triethylamine (270 μL, 2 mmol, 2.0 eq) in DCM (20 mL) was stirred at RT for 2 h. Then water (20 mL) was added. The organic layer was separated, washed with brine (2×10 mL), dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated in vacuo to afford the desired product 6-chloro-3-morpholinopyrido[2,3-b]pyrazine (E-29) (100 mg, 40% yield). 1H NMR (300 MHz, CDCl3-d6) δ: 8.59 (s, 1H), 8.15 (d, J=6.6 Hz, 1H), 7.35 (d, J=6.3 Hz, 1H), 3.90 (m, 8H); ESI-MS m/z: 251.00 [M+H]+.

reactant | 3,6-dichloropyrido[2,3-b]pyrazine | 1 mmol, 201 mg, 1.0 eq | ClC1=CN=C2C(=N1)N=C(C=C2)Cl | C7H3Cl2N3
reactant | morpholine | 2 mmol, 175 μL, 2.0 eq | N1CCOCC1 | C4H9NO
reactant | triethylamine | 2 mmol, 270 μL, 2.0 eq | C(C)N(CC)CC | C6H15N
reactant | water | 20 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-3-morpholinopyrido[2,3-b]pyrazine | 100 mg, 40% yield | ClC=1C=CC=2C(=NC(=CN2)N2CCOCC2)N1 | C11H11ClN4O
